US06617330B2
3-Cyano-2-(1,1-dipropoxymethylenamino) thiophene
In a small distillation apparatus a mixture of 12.4 g(0.1 mol) 2-amino-3-cyanothiophene and 37.2 g (0.15 mol) tetra-n-propylorthocarbonate is heated for 3 hours at 155° C. n-PrOH, which arises during the reaction is directly distilled out of the reaction flask. After completion of the reaction, excess tetra-n-propylorthocarbonate is distilled off under reduced pressure and the resulting raw material purified by column chromatography over silica gel (eluant: hexane/tert.butylmethyl ether 6:1). Yield: 10.6 g of 3-cyano-2-(1,1-dipropoxymethyleneamino)thiophene in the form of slightly brownish crystals; m.p. 65-67° C.

reactant | 2-amino-3-cyanothiophene | 0.1 mol, 12.4 g | NC=1SC=CC1C#N | C5H4N2S
reactant | tetra-n-propylorthocarbonate | 0.15 mol, 37.2 g | C(CC)OC(OCCC)(OCCC)OCCC | C13H28O4
solvent | n-PrOH | C(CC)O | C3H8O
product | 3-Cyano-2-(1,1-dipropoxymethylenamino) thiophene | C(#N)C1=C(SC=C1)N=C(OCCC)OCCC | C12H16N2O2S
